US20010047099A1
C. Methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate
To methyl 4-azido-6-bromo-3-methoxypyridine-2-carboxylate (0.500 g, 1.74 mmol) in 10 mL of methanol was added NaBH4 (0.046 g, 1.22 mmol). The reaction mixture was stirred at room temperature for 10 min. Ethyl acetate and water were added and the phases were separated. The organic phase was washed with H2O, dried (MgSO4) and concentrated to dryness in vacuo. The residue was purified by chromatography (silica gel). Elution with 100% ethyl acetate gave 0.300 g of a white solid. 1H NMR(CDCl3): δ 3.90 (s, 1H); 3.95 (s, 1H); 4.60 (s, 2H); 6.85 (s, 1H).

reactant | methyl 4-azido-6-bromo-3-methoxypyridine-2-carboxylate | 1.74 mmol, 0.500 g | N(=[N+]=[N-])C1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H7BrN4O3
reactant | NaBH4 | 1.22 mmol, 0.046 g | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate | 0.300 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
